US05948791
N1 -(7-Chloro-quinolin-4-yl)-N2 -(3,5-dichloro-benzyl)-2-methylpropane-1,2-diamine dihydrochloride
1.25 g of N1 -(7-chloro-quinolin-4-yl)-2-methyl-propane-1,2-diamine and 0.88 g of 3,5-dichlorobenzaldehyde were heated under reflux in 10 ml of ethanol for 3 hours. The solvent was evaporated in a vacuum in order to complete the reaction. The resulting Schiff's base was again taken up in 10 ml of ethanol and reduced to the amine by the addition of 0.19 g of sodium borohydride. Excess reducing agent was decomposed after 3 hours by the addition of 10 ml of glacial acetic acid. The turbid solution was then evaporated on a rotary evaporator. The residue was taken up in 10 ml of methanol, which was again evaporated. Addition of methanol and evaporation were repeated twice. The evaporation residue was then dissolved in 15 ml of hot methanol. After the addition of 3.6 ml of 3N isopropanolic hydrochloric acid the hydrochloride of the product crystallized upon cooling. The crude salt (1.1 g) was purified by recrystallization from 30 ml of methanol. Yield: 0.63 g (26%), m.p. >250° C.; 1H-NMR in DMSO-d6, δ (ppm): 1.50 (s, 6H), 4.03 (br.s, 2H), 4.35 (m, 2H), 7.27 (d, J=7 Hz, 1H), 7.69 (m, 1H), 7.82 (dd, J=2 Hz and 9 Hz), 7.89 (m, 2H), 8.11 (d, J=2 Hz, 1H), 8.68 (d, J=7 Hz, 1H), 8.99 (d, J=9 Hz, 1H), 9.65 (br., 1H), 9.8 (m, 2H), 14.5 (br.s, 1H).

reactant | N1 -(7-chloro-quinolin-4-yl)-2-methyl-propane-1,2-diamine | 1.25 g | ClC1=CC=C2C(=CC=NC2=C1)NCC(C)(N)C | C13H16ClN3
reactant | 3,5-dichlorobenzaldehyde | 0.88 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | sodium borohydride | 0.19 g | [BH4-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N1 -(7-Chloro-quinolin-4-yl)-N2 -(3,5-dichloro-benzyl)-2-methylpropane-1,2-diamine dihydrochloride | Cl.Cl.ClC1=CC=C2C(=CC=NC2=C1)NCC(C)(NCC1=CC(=CC(=C1)Cl)Cl)C | InChI=1S/C20H20Cl3N3.2ClH/c1-20(2,26-11-13-7-15(22)9-16(23)8-13)12-25-18-5-6-24-19-10-14(21)3-4-17(18)19;;/h3-10,26H,11-12H2,1-2H3,(H,24,25);2*1H
